Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[H:14],4.04924294425
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.7763455895
[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]=[C:9]([H:10])[H:11]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.20505561838
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.36587462694
[H:1][O:2][C:3]#[C:4].[O:5][H:6]>>[H:1][O:2][C:3]#[C:4][O:5][H:6],-6.26675883893
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.4450505055900003
[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:5]([C:6]#[C:7][H:8])[O:9][H:10].[H:4],1.45619852522
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2],6.387448656980001
[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8][H:9].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],-4.30983476809
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[O:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[H:9],-2.39980298653
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5],4.76426705551
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],1.181965878
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1],6.09438492743
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[O:9],2.54203008482
[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1]=[C:2],-0.684115763009
[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.1362022115400014
[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.23549065767
[C:7]([H:8])([H:9])([C:10][H:11])[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:12]([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.2028119
[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.50936099991
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]([O:7][H:8])[C:9]([H:10])[H:11],-0.37440039556
[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-1.50499866769
[H:11].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.90953046818
[H:1][C:2](=[O:3])[C:13]([C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],0.55638001082
[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])\[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.91061901156
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],5.12128891477
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:11][H:12],3.93790211944
[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[O:10][H:11].[H:9],2.14887936946
[C:7](#[C:8][H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11],-1.58958210727
[C:1]#[C:2][C:4][C:5]([H:7])[H:8].[C:3]#[C:6]>>[C:1]#[C:2][C:3]([C:4]#[C:5])=[C:6]([H:7])[H:8],-3.25185613622
[C:5]([H:6])([H:7])[O:8][C:9][H:10].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],-0.783695360001
